US06555556B1
2-Hydroxyisophthalic Acid
A solution of 2-methoxyisophthalic acid (1.0 g) in 55% hydriodic acid (10 ml) was heated at 80° C. for 1 hour. The reaction mixture was poured into iced water and the precipitate was collected by filtration to give the desired compound (0.9 g, yield 95%) as a pale yellow solid.

reactant | 2-methoxyisophthalic acid | 1.0 g | COC1=C(C(=O)O)C=CC=C1C(=O)O | C9H8O5
reactant | water | O | H2O
solvent | hydriodic acid | 10 ml | I | HI
product | 2-Hydroxyisophthalic Acid | 0.9 g, yield 95% | OC1=C(C(=O)O)C=CC=C1C(=O)O | C8H6O5
